US07514566B2
Tert-butyl (2S,3S,E)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)hex-4-en-2-ylcarbamate (0.51 g, 1.4 mmol) was taken up in 10 mL of MeOH. 0.10 g of 10% Pd on carbon was added, and hydrogen was bubbled through the mixture. After 2 minutes, the bubbling was ceased and the reaction was kept under a balloon of hydrogen. After 2 hours, the mixture was filtered through Celite and concentrated under reduced pressure, affording tert-butyl (2S,3S)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)hexan-2-ylcarbamate (0.50 g, 97% yield) as a white solid.

reactant | Tert-butyl (2S,3S,E)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)hex-4-en-2-ylcarbamate | 1.4 mmol, 0.51 g | OC[C@H]([C@@H](\C=C\C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C18H24F3NO3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd on carbon | 0.10 g | [Pd] | Pd
product | tert-butyl (2S,3S)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)hexan-2-ylcarbamate | 0.50 g, 97% yield | OC[C@H]([C@@H](CCC)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C18H26F3NO3
